US08703803B2
1,3,5-tris-(5-hydroxy-1-pentynyl)-benzene (2.84 g, 8.6 mmol) was dissolved in methanol (30 mL) and 10% Pd/C (5% w/w) was added. The resulting mixture was hydrogenated on a Parr hydrogenation apparatus (45 psi) for 4 hours. The catalyst was removed by filtration through a celite pad. The filter cake was rinsed with methanol, and the combined organic liquors were concentrated under reduced pressure. The crude product was purified by column chromatography (CHCl3:MeOH 6:1) to afford 2.84 g of 1,3,5-tris-(5-hydroxypentyl)-benzene. Yield 96%. 1H NMR (300 MHz, CDCl3) δ 6.81 (s, 3H), 3.62 (t, J=6.3 Hz, 6H), 2.57 (t, J=7.5 Hz, 6H), 1.53-1.70 (m, 12H), 1.38 (m, 6H) ppm; 13C NMR (75 MHz, CDCl3) δ 142.5, 126.1, 63.1, 36.1, 32.9, 31.5, 25.7 ppm.

reactant | 1,3,5-tris-(5-hydroxy-1-pentynyl)-benzene | 8.6 mmol, 2.84 g | OCCCC#CC1=CC(=CC(=C1)C#CCCCO)C#CCCCO | C21H24O3
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1,3,5-tris-(5-hydroxypentyl)-benzene | 2.84 g, Yield 96% | OCCCCCC1=CC(=CC(=C1)CCCCCO)CCCCCO | C21H36O3
